US06008387
0.0178 g (0.02 mmol) of the complex salt as described in Preparative Example 1 was added to a mixture of 0.208 g (2 mmol) of styrene in 20 ml of CH2Cl2 and 1.68 g (20 mmol) of sodium hydrogen carbonate in 20 ml of water. After a reaction time at room temperature of 10 minutes, 20 ml of H2O2 (30% strength) was added slowly over a period of 2.5 hours, with the temperature rising to 28° C. After a further 22 hours, the reaction was complete. The layers were separated and the organic phase was evaporated under reduced pressure. The product obtained was purified by column chromatography giving styrene oxide in a yield of 54% based on styrene.

reactant | styrene | 2 mmol, 0.208 g | C=CC1=CC=CC=C1 | C8H8
reactant | sodium hydrogen carbonate | 20 mmol, 1.68 g | C(O)([O-])=O.[Na+]
reactant | H2O2 | 20 ml | OO | H2O2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | styrene oxide | yield of 54% | C1C(C2=CC=CC=C2)O1 | C8H8O
